US07112584B2
14.4 g of the thus obtained 4-(benzo[1,3]dioxol-4-yl)-4-methyl-2-oxo-pentanoic acid ethyl ester is stirred with 150 ml of 1 M sodium hydroxide and 300 ml of methanol for 10 hours at room temperature. The methanol is then removed in a vacuum, and the remaining solution is extracted with diethyl ether. The aqueous phase is acidified with 1 M hydrochloric acid and extracted with diethyl ether. After drying and concentration by evaporation, 11.1 g of 4-(benzo[1,3]dioxol-4-yl)-4-methyl-2-oxo-pentanoic acid is obtained as a yellowish oil.

reactant | 4-(benzo[1,3]dioxol-4-yl)-4-methyl-2-oxo-pentanoic acid ethyl ester | C(C)OC(C(CC(C)(C)C1=CC=CC=2OCOC21)=O)=O | C15H18O5
reactant | sodium hydroxide | 1 M, 150 ml | [OH-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
product | 4-(benzo[1,3]dioxol-4-yl)-4-methyl-2-oxo-pentanoic acid | 11.1 g | O1COC2=C1C=CC=C2C(CC(C(=O)O)=O)(C)C | C13H14O5
